US05256675
A mixture of 2-acetylamino-5-chlorothiazole (5.3 g), 1-methyl-2-mercaptoimidazole (3.6 g) and potassium carbonate (6.2 g) in N,N-dimethylformamide (50 ml) was heated at 130° C. for 5.5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was triturated with water. The precipitates were collected by filtration washed with water and dried in vacuo to give 2-acetylamino-5-(1-methylimidazol-2-ylthio)thiazole (6.95 g, yield: 91.2%). mp: 155°-160° C. (dec.) IR (Nujol): 3400, 1690, 1565, 1300 cm-1

reactant | 2-acetylamino-5-chlorothiazole | 5.3 g | C(C)(=O)NC=1SC(=CN1)Cl | C5H5ClN2OS
reactant | 1-methyl-2-mercaptoimidazole | 3.6 g | CN1C(=NC=C1)S | C4H6N2S
reactant | potassium carbonate | 6.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-acetylamino-5-(1-methylimidazol-2-ylthio)thiazole | 6.95 g, yield: 91.2% | C(C)(=O)NC=1SC(=CN1)SC=1N(C=CN1)C | C9H10N4OS2
